US08487102B2
c) 1-Benzyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
A solution of 1-benzyl-4-chloro-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (4.56 g, 0.0144 mol) in toluene (80 mL) and EtOH (40 mL) was degassed 3 times before Pd(PPh3)4 (0.834 g, 0.722 mmol), 4-fluoro-2-methylphenylboronic acid (2.67 g, 0.0173 mol) and an aqueous solution of Na2CO3 (2N, 14.4 mL, 0.0288 mol) were added. The reaction mixture was stirred at 75° C. for 15 hours, cooled down to RT, filtered and the volatiles evaporated under vacuo. The residue was taken up in EtOAc and washed with aqueous NaOH (1N). The organic phase was dried over Na2SO4, concentrated under vacuo, before a purification on column chromatography (SiO2, EtOAc/Heptane, 1/4) yielded 4.74 g (84%) of the title compound as a colorless solid.

reactant | 1-benzyl-4-chloro-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.0144 mol, 4.56 g | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC2=CC=CC=C2)Cl | C16H14ClN3O2
reactant | 4-fluoro-2-methylphenylboronic acid | 0.0173 mol, 2.67 g | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
reactant | Na2CO3 | 0.0288 mol, 2N, 14.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.722 mmol, 0.834 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Benzyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 4.74 g, 84% | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC2=CC=CC=C2)C2=C(C=C(C=C2)F)C | C23H20FN3O2
